US09216999B2
3-[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]propanenitrile
The reactions in Synthetic Examplea 438 were carried out in substantially the same manners except that (E)-3-[trans-4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]acrylonitrile obtained in Synthetic Examplea 440 was used instead of ethyl 2-[4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexylidene]acetate to give the title compound as a colorless solid (7.30 mg, yield 72%).

reactant | (E)-3-[trans-4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]acrylonitrile | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)/C=C/C#N | C16H16N6
reactant | ethyl 2-[4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexylidene]acetate | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CCC(CC3)=CC(=O)OCC | C17H19N5O2
product | 3-[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]propanenitrile | 7.30 mg, yield 72% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)CCC#N | C16H18N6
